US06211375B1
Preparation of ethyl 2,4,5-trifluoro-3-methylbenzoylacetate
2.4 g of magnesium, 10 ml of ethanol, and 0.4 ml of carbon tetrachloride were stirred in a three necked flask at room temperature for activation, and 15 ml of diethyl malonate and 40 ml of tetrahydrofuran were gradually added dropwise. The mixture was stirred at 80° C. for 4 hours. The reaction solution was allowed to cool, and then cooled to −40° C. To 50 ml solution in methylene chloride of 15.5 g of 2,4,5-trifluoro-3-methylbenzoic acid obtained in Reference Example 1(3) were added 8 ml of oxalyl dichloride and 5 drops of N,N-dimethylformamide, and the mixture was stirred at room temperature for 3 hours. The solvent was distilled off, and tetrahydrofuran was added for azeotropic distillation. The residue was dissolved in 40 ml of tetrahydrofuran, and this solution was gradually added dropwise to the above-described reaction solution at −40° C. After the dropwise addition, the reaction solution was stirred at room temperature for 3 days, and the solvent was distilled off. 50 ml of 12N hydrochloric acid was added to the solution to about pH 2, and the solution was extracted with chloroform, and solvent was distilled off. To the residue were added 30 ml of water and 0.6 g of p-toluenesulfonic acid, and the mixture was stirred under reflux for 6 hours. The reaction solution was allowed to cool, extracted with chloroform, and washed with water and 5% aqueous solution of sodium hydrogencarbonate successively. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to obtain the title compound as 5.5 g of powder and 10.2 g of brown oil.

reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | diethyl malonate | 15 ml | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 2,4,5-trifluoro-3-methylbenzoic acid | 15.5 g | FC1=C(C(=O)O)C=C(C(=C1C)F)F | C8H5F3O2
reactant | oxalyl dichloride | 8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | carbon tetrachloride | 0.4 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2,4,5-trifluoro-3-methylbenzoylacetate | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1C)F)F | C12H11F3O3
